US07939528B2
Step 1: (2Z)-5-(methyloxy)-1H-indene-1,2(3H)-dione 2-oxime Preparation
To a solution of 5-(methyloxy)-2,3-dihydro-1H-inden-1-one (1.0 g, 6.2 mmol) in methanol (15 mL) at 40 degrees Centigrade was added n-butyl nitrite (0.8 mL, 6.25 mmol) followed by concentrated HCl (0.6 mL). The reaction was stirred for 30 min during which time a precipitate formed, collected, dried and used without further purification.

reactant | 5-(methyloxy)-2,3-dihydro-1H-inden-1-one | 6.2 mmol, 1.0 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | n-butyl nitrite | 6.25 mmol, 0.8 mL | N(=O)OCCCC | C4H9NO2
reactant | HCl | 0.6 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | (2Z)-5-(methyloxy)-1H-indene-1,2(3H)-dione 2-oxime | COC=1C=C2C/C(/C(C2=CC1)=O)=N/O | C10H9NO3
